US04925868
In a mixture of THF (50 ml) and DMF (10 ml) was dissolved ethyl S-(4-dodecyloxyphenyl)acetylthioglycolate (2.8 g, 6.6 m mol). To the solution was added at room temperature potassium tertiary butoxide (1.1 g, 10 m mol). The solution was stirred for one hour, to which was then added 2N HCl (20 ml), followed by extraction with ethyl acetate. The organic layer was washed with water, dried and concentrated under reduced pressure. The residue was purified by silica gel chromatography (developing solvent: ethyl acetate). The crude crystals obtained were recrystallized from IPE to obtain 2,5-dihydro-4-hydroxy-3-(4-dodecyloxyphenyl)thiophen-2-one (5-h, 13 mg, 0.5%).

reactant | ethyl S-(4-dodecyloxyphenyl)acetylthioglycolate | 2.8 g | C(CCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)SCC(=O)OCC | C24H38O4S
reactant | potassium tertiary butoxide | 1.1 g | CC(C)([O-])C.[K+]
reactant | HCl | 2N, 20 ml | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2,5-dihydro-4-hydroxy-3-(4-dodecyloxyphenyl)thiophen-2-one | 13 mg, 0.5% | OC1=C(C(SC1)=O)C1=CC=C(C=C1)OCCCCCCCCCCCC | C22H32O3S
